US07888349B2
A solution of N-{1,1-dimethyl-2-[(3-nitroquinolin-4-yl)amino]ethyl}methanesulfonamide (4.0 g, 12 mmol) in acetonitrile (200 mL) was added to a Parr vessel charged with 5% platinum on carbon (0.5 g) and purged with nitrogen. The vessel was placed under hydrogen pressure (50 psi, 3.4×105 Pa) and shaken overnight. The reaction was filtered through a layer of CELITE filter aid, and the filter cake was washed with acetonitrile and dichloromethane until the filtrate was colorless. The filtrate was concentrated under reduced pressure to provide 3.51 g of N-{2-[(3-aminoquinolin-4-yl)amino]-1,1-dimethylethyl}methanesulfonamide as a yellow powder.

reactant | N-{1,1-dimethyl-2-[(3-nitroquinolin-4-yl)amino]ethyl}methanesulfonamide | 12 mmol, 4.0 g | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)NS(=O)(=O)C | C14H18N4O4S
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
catalyst | platinum on carbon | 0.5 g | [Pt] | Pt
product | N-{2-[(3-aminoquinolin-4-yl)amino]-1,1-dimethylethyl}methanesulfonamide | 3.51 g | NC=1C=NC2=CC=CC=C2C1NCC(C)(C)NS(=O)(=O)C | C14H20N4O2S
